US06713474B2
Di-tert-butyl dicarbonate (4.56 g) was added to a solution of 4-hydroxytetrahydroisoxazole (2.4 g) and triethylamine (4.2 g) in tetrahydrofuran (100 ml) with stirring at 0° C. under nitrogen. The mixture was stirred at ambient temperature for 72 hours and then filtered. The filtrate was evaporated under reduced pressure to give N-(tert-butoxycarbonyl)-4-hydroxytetrahydroisoxazole as an oil which was used directly in the next part of this example.

reactant | Di-tert-butyl dicarbonate | 4.56 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-hydroxytetrahydroisoxazole | 2.4 g | OC1CNOC1 | C3H7NO2
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-4-hydroxytetrahydroisoxazole | C(C)(C)(C)OC(=O)N1OCC(C1)O | C8H15NO4
